US09216980B2
3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-methanol
A 1M solution of lithium aluminum hydride in THF (1.2 mL, 1.2 mmol) was slowly added to a suspension of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (48.0 mg, 0.120 mmol) in THF at 0° C. The mixture was slowly warmed to ambient temperature. A further portion of 1M solution of lithium aluminum hydride in THF (1.2 mL, 1.2 mmol) was added slowly to the bright orange-yellow, homogeneous mixture at ambient temperature. After 1 h, the mixture was treated with aqueous ammonium chloride, and diluted with water and 50% DCM/methanol. The resulting mixture was treated with Rochelle's salt and allowed to stir vigorously for 2 h. The solids were removed by filtration, and the filtrate layers were separated. The aqueous phase was extracted with 20% methanol in DCM and the combined organic phase concentrated in vacuo. The residue was dissolved in DMSO and purified by preparative HPLC (2-60% MeCN/water modified with 0.1% ammonium hydroxide) to provide a light-yellow solid (7.1 mg, 16%). 1H NMR (DMSO-D6, 400 MHz): 12.10 (s, 1H), 9.02 (m, 1H), 8.90 (m, 1H), 8.82 (m, 1H), 8.28 (m, 1H), 7.79 (m, 2H), 7.46 (m, 2H), 5.40 (t, J=5.7 Hz, 1H), 4.74 (d, J=5.6 Hz, 2H), 3.59-3.41 (m, 2H), 2.38 (m, 4H), 1.54 (m, 4H), 1.42 (m, 2H). LCMS (Method D): RT=4.48 min, M+H+=373.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 0.120 mmol, 48.0 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H24N4O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DCM methanol | C(Cl)Cl.CO
solvent | THF | 1.2 mmol, 1.2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.2 mmol, 1.2 mL | C1CCOC1 | C4H8O
product | 3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-methanol | 7.1 mg, 16% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)CO)N=C1 | C23H24N4O
